** LOWERED by hand from abstract/netlist.spice -> ihp-sg13g2 (sg13_lv_* 1.5 V family). Keep both in step.
*   VREF   ideal reference (a real bandgap is out of scope, same convention as the reference)
*   XR1/XR2 feedback divider (high-ohmic poly, w = r_w, l = r_fb_l each: 1:1 -> vout = 2*vref), sensed
*            through the 0 V loop-break marker VLP (ac_loopgain bench)
*   XCFF   feed-forward MIM across XR1: a lead zero at 1/(2*pi*R1*Cff) that cancels the divider-node pole
*            the resistors' own substrate capacitance makes (~16 fF per rhigh terminal at 340u)
*   XRB/XMB0 resistor-referenced bias: I_ref = (VDD - Vgs) / R(r_bias_l); XMB1/XMBP mirror it to a PMOS diode
*   XMT/XM1/XM2/XM3/XM4  error-amp stage 1: PMOS-input 5T OTA (XM1: fb -> diode side, XM2: vref -> output side)
*   XM5/XM6  error-amp stage 2: NMOS common source under a PMOS current source (ea_out = FVF control voltage)
*   XCC    Miller MIM capacitor across stage 2 (dominant pole at ea_o1), c_comp_w square
*   XMC    flipped-voltage-follower control device (source = vout, gate = ea_out): the fast local loop
*   XMA/XMB + XMCP/XMD  NMOS then PMOS 1:1 current mirrors that fold XMC's current up to the pass gate
*            as a PULL-UP (double-mirror FVF): the pass gate can reach vdd - Vsd,sat, so the pass device
*            turns fully off at hot/fast corners, which the plain FVF (gate <= vout) cannot do, and the
*            gate pull-down XMS keeps the plain FVF's pull-down slew (the transient path of 002)
*   XMS    constant gate-node sink (I_B)
*   XMP    pass device
*   XCOUT  on-chip output capacitor: c_out_m parallel MIM units of c_out_w square (the only Cout the challenge allows)
VREF vref vss dc {vref_val}
VLP lp_brk vout dc 0
XR1 lp_brk fb vss rhigh w=r_w l=r_fb_l
XCFF lp_brk fb cap_cmim w=c_ff_w l=c_ff_w
XR2 fb vss vss rhigh w=r_w l=r_fb_l
XRB vdd nbias vss rhigh w=r_w l=r_bias_l
XMB0 nbias nbias vss vss sg13_lv_nmos l=x_dut_xmb0_l w=x_dut_xmb0_w
XMB1 pbias nbias vss vss sg13_lv_nmos l=x_dut_xmb0_l w=x_dut_xmb1_w
XMBP pbias pbias vdd vdd sg13_lv_pmos l=x_dut_xmbp_l w=x_dut_xmbp_w
XMT ea_tail pbias vdd vdd sg13_lv_pmos l=x_dut_xmbp_l w=x_dut_xmt_w
XM1 ea_n fb ea_tail vdd sg13_lv_pmos l=x_dut_xm1_l w=x_dut_xm1_w
XM2 ea_o1 vref ea_tail vdd sg13_lv_pmos l=x_dut_xm1_l w=x_dut_xm1_w
XM3 ea_n ea_n vss vss sg13_lv_nmos l=x_dut_xm3_l w=x_dut_xm3_w
XM4 ea_o1 ea_n vss vss sg13_lv_nmos l=x_dut_xm3_l w=x_dut_xm3_w
XM5 ea_out ea_o1 vss vss sg13_lv_nmos l=x_dut_xm5_l w=x_dut_xm5_w
XM6 ea_out pbias vdd vdd sg13_lv_pmos l=x_dut_xmbp_l w=x_dut_xm6_w
XCC ea_out ea_o1 cap_cmim w=c_comp_w l=c_comp_w
XMC x1 ea_out vout vdd sg13_lv_pmos l=x_dut_xmc_l w=x_dut_xmc_w
XMA x1 x1 vss vss sg13_lv_nmos l=x_dut_xma_l w=x_dut_xma_w
XMB y x1 vss vss sg13_lv_nmos l=x_dut_xma_l w=x_dut_xma_w
XMCP y y vdd vdd sg13_lv_pmos l=x_dut_xmcp_l w=x_dut_xmcp_w
XMD gate y vdd vdd sg13_lv_pmos l=x_dut_xmcp_l w=x_dut_xmcp_w
XMS gate nbias vss vss sg13_lv_nmos l=x_dut_xms_l w=x_dut_xms_w
XMP vout gate vdd vdd sg13_lv_pmos l=x_dut_xmp_l w=x_dut_xmp_w m=x_dut_xmp_m
XCOUT vout vss cap_cmim w=c_out_w l=c_out_w m=c_out_m
.end
